US04147716
N-(2-cyanoethyl)-N-[2-(N-propylcarbamoyloxy)ethyl]aniline.
To a mixture of 4 g. (.05 mole) of potassium cyanate and 25 ml. of sulfolane at 90° C. are added dropwise 9 ml. (12.3 g, 0.1 mole) of 1-bromopropane over a one-hour period. After 10 minutes of stirring at the same temperature, a solution of 6 g. (0.027 mole) of N-(2-cyanoethyl)-N-(2-hydroxyethyl)aniline in 5 ml. sulfolane is added. The resulting mixture is stirred at 90°-100° C. for three hours and then allowed to cool to 50° C. The mixture is poured into 1 liter of water under agitation, and the resulting layers separated. TLC of the organic layer in 4:1 benzene: acetone shows the absence of starting alcohol with the product of the above formula.

reactant | potassium cyanate | .05 mole | [O-]C#N.[K+]
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | 1-bromopropane | 0.1 mole, 12.3 g | BrCCC | C3H7Br
reactant | N-(2-cyanoethyl)-N-(2-hydroxyethyl)aniline | 0.027 mole | C(#N)CCN(C1=CC=CC=C1)CCO | C11H14N2O
solvent | water | 1 liter | O | H2O
product | N-(2-cyanoethyl)-N-[2-(N-propylcarbamoyloxy)ethyl]aniline | C(#N)CCN(C1=CC=CC=C1)CCOC(NCCC)=O | C15H21N3O2
